US09260436B2
A mixture of 700 mg of 3-amino-6-chloropyridazine, 1.42 g of 2-ethylsulfanylphenylboronic acid pinacol ester, 148 mg of tris(dibenzylideneacetone)dipalladium(0), 603 mg of tricyclohexylphosphine (18% toluene solution), 3.43 g of tripotassium phosphate, 4.5 ml of 1,4-dioxane and 1.5 ml of water was stirred at 100° C. for 3 hours. Water was added to the cooled reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, then dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The resulting residue was applied to a silica gel column chromatography to obtain 927 mg of 3-amino-6-(2-ethylsulfanylphenyl)pyridazine.

reactant | 3-amino-6-chloropyridazine | 700 mg | NC=1N=NC(=CC1)Cl | C4H4ClN3
reactant | 2-ethylsulfanylphenylboronic acid pinacol ester | 1.42 g | C(C)SC1=C(C=CC=C1)B1OC(C)(C)C(C)(C)O1 | C14H21BO2S
reactant | tricyclohexylphosphine | 603 mg | C1(CCCCC1)P(C1CCCCC1)C1CCCCC1 | C18H33P
reactant | tripotassium phosphate | 3.43 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 148 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
solvent | Water | O | H2O
solvent | water | 1.5 ml | O | H2O
solvent | 1,4-dioxane | 4.5 ml | O1CCOCC1 | C4H8O2
product | 3-amino-6-(2-ethylsulfanylphenyl)pyridazine | 927 mg | NC=1N=NC(=CC1)C1=C(C=CC=C1)SCC | C12H13N3S
